US05384413
350 g of crude tetrafluorophthalic acid are heated with 800 g of xylene using a water separator, until no further water passes over (5 hours). The resulting suspension is allowed to cool and the anhydride which has precipitated is filtered off. 301 g of tetrafluorophthalic anhydride are obtained, the mother liquor, which still contains about 5 g of tetrafluorophthalic anhydride, being used for further dehydrations. The tetrafluorophthalic anhydride is then purified by fractionation, whereupon it passes over as a colorless liquid (under 1 mbar/95° C.-105° C.) and solidifies as a colorless, crystalline mass of melting point 93°-94° C. 255 g (1.16 mol) of tetrafluorophthalic anhydride with a purity of >99% (GC, HPLC) are obtained in this manner.

reactant | tetrafluorophthalic acid | 350 g | FC=1C(=C(C(=C(C1C(=O)O)C(=O)O)F)F)F | C8H2F4O4
reactant | xylene | 800 g | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | tetrafluorophthalic anhydride | 301 g | FC=1C(=C(C(=C2C1C(=O)OC2=O)F)F)F | C8F4O3
